US05602170
21 g of 2-iodo-thiophene was dissolved in 50 ml of DMF in 3-necks-bottle (250 ml). 10 g of Cu powder was then added into the solution and refluxed for 15 hours. Then the solution was filtered and the DMF was removed under reduced pressure. The crude product was further purified by column chromatography and both 2,2'-bithiophene (97%) as well as 2,2':5',2"-terthiophene (2%) were obtained.

reactant | 2-iodo-thiophene | 21 g | IC=1SC=CC1 | C4H3IS
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2,2'-bithiophene | 97% | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
